US06723719B1
Methyl 2-(2-Methoxyethoxy)benzoate
Diethyl azodicarboxylate (7.0 g, 40.4 mmol) was added dropwise to a stirred solution of methyl salicylate (5.1 g, 33.5 mmol), 2-methoxyethanol (2.6 g, 34.1 mmol) and triphenylphosphine (10.6 g, 40.4 mmol), then the reaction mixture stirred at room temperature for 18 hours and evaporated under reduced pressure. The residue was triturated with ether, the resulting mixture filtered, the filtrate evaporated under reduced pressure and the resulting residue purified by column chromatography on silica gel, using an elution gradient of pentane:ether (100:0 to 80:20), to afford the title compound (4.80 g, 68%) as a colourless oil. δ (CDCl3): 3.51 (3H, s), 3.85 (2H, t), 3.92 (3H, s), 4.23 (2H, t), 7.03 (2H, m), 7.48 (1H, m), 7.83 (1H, d).

reactant | Diethyl azodicarboxylate | 40.4 mmol, 7.0 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methyl salicylate | 33.5 mmol, 5.1 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | 2-methoxyethanol | 34.1 mmol, 2.6 g | COCCO | C3H8O2
reactant | triphenylphosphine | 40.4 mmol, 10.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | Methyl 2-(2-Methoxyethoxy)benzoate | 4.80 g, 68% | COCCOC1=C(C(=O)OC)C=CC=C1 | C11H14O4
